US08030305B2
2-[1,2,4]Triazolo[1,5-α]pyridin-6-yl-malonic acid diethyl ester
Diethyl malonate (400 μL) was added to a mixture of 6-iodo-[1,2,4]triazolo[1,5-α]pyridine (245 mg, 1 mmol), copper iodide (19 mg, 0.1 mmol), biphenyl-2-ol (34 mg, 0.2 mmol), and Cs2CO3 in THF (5 mL). The hetereogeneous solution was stirred for 16 h at 70° C. After cooling, the mixture was partitioned between chloroform (40 mL) and aq NH4Cl (20 mL). The organic layer was washed with NH4Cl (3×15 mL), NaHCO3 (20 mL), and brine (20 mL) then was dried over Na2SO4. Concentration of the solution followed by SiO2 flash chromatography purification yielded the product (170 mg, 61%) as a colorless glass.

reactant | Diethyl malonate | 400 μL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 6-iodo-[1,2,4]triazolo[1,5-α]pyridine | 1 mmol, 245 mg | IC=1C=CC=2N(C1)N=CN2 | C6H4IN3
reactant | biphenyl-2-ol | 0.2 mmol, 34 mg | C=1(C(=CC=CC1)O)C1=CC=CC=C1 | C12H10O
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.1 mmol, 19 mg | [Cu](I)I
product | 2-[1,2,4]Triazolo[1,5-α]pyridin-6-yl-malonic acid diethyl ester | 170 mg, 61% | C(C)OC(C(C(=O)OCC)C=1C=CC=2N(C1)N=CN2)=O | C13H15N3O4
